US05849765
4-(Benzothiazol-2-yl)-1-(2-chlorobenzyl)-1,2,3,6-tetrahydropyridine
4-(Benzothiazol-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride (200 mg, 0.8 mmol) was reacted with 2-chlorobenzyl bromide (0.13 ml, 0.8 mmol) as exemplified in Example 1. The crude product was purified by flash chromatography eluting with 15% ethyl acetate in petroleum ether to give the title compound as a yellow solid (120 mg, 44%). (Found: C, 65.13; H, 4.72; N, 7.33. C19H17ClN2S. 0.5H2O requires C, 65.22; H, 5.19; N, 8.01%). δH (CDCl3), 2.84 (4H, m, CH2), 3.33 (2H, m, NCH2CH2), 3.80 (2H, s, NCH2Ar), 6.70 (1H, m, NCH2CH), 7.41 (6H, m, ArH), 7.82 (1H, d, J 7.8Hz, ArH), 7.98 (1H, d, J 8.1Hz, ArH). m/z (ES+) 341 (M+1)+.

reactant | 4-(Benzothiazol-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride | 0.8 mmol, 200 mg | Cl.S1C(=NC2=C1C=CC=C2)C=2CCNCC2
reactant | 2-chlorobenzyl bromide | 0.8 mmol, 0.13 ml | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
product | 4-(Benzothiazol-2-yl)-1-(2-chlorobenzyl)-1,2,3,6-tetrahydropyridine | 120 mg, 44% | S1C(=NC2=C1C=CC=C2)C=2CCN(CC2)CC2=C(C=CC=C2)Cl | C19H17ClN2S
